US08247583B2
1,4-Butanediol (270 g (3.0 mol)), 96% sodium hydroxide (36 g (0.86 mol)) and tetrabutylammonium bromide (3.6 g (11.2 mmol)) were added to a glass flask having an inner volume of 1,000 ml equipped with a stirrer, a thermometer, a dropping funnel and an reflux condenser, and the mixture was warmed to 50° C. Subsequently 3-ethyl-3-bromomethyloxetane (108 g (0.6 mol)) synthesized by the same method as in Reference Example 4 was dropwise added while keeping the liquid temperature at 50-60° C. After the completion of the reaction, heptane (100 ml) and water (100 ml) were added to the reaction liquid (a bisoxetane ether compound generated in the amount of only 3% (an analysis value by a gas chromatography)), and a liquid separation was performed. Subsequently, a resultant aqueous layer was extracted with toluene (200 ml) three times. An extract (a toluene layer) was washed with water (50 ml), and the resultant was concentrated under reduced pressure. After the completion of drying, it was filtered and a resultant filtrate was concentrated under reduced pressure to give, as a colorless liquid, 3-ethyl-3-(4-hydroxybutyl)oxymethyloxetane (75 g) having a purity of 95% (an analysis value by a gas chromatography) (an isolated yield based on 3-ethyl-3-bromomethyloxetane: 63%).

reactant | 1,4-Butanediol | 3.0 mol, 270 g | C(CCCO)O | C4H10O2
reactant | sodium hydroxide | 0.86 mol, 36 g | [OH-].[Na+]
reactant | 3-ethyl-3-bromomethyloxetane | 0.6 mol, 108 g | C(C)C1(COC1)CBr | C6H11BrO
reactant | heptane | 100 ml | CCCCCCC | C7H16
catalyst | tetrabutylammonium bromide | 11.2 mmol, 3.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | 3-ethyl-3-(4-hydroxybutyl)oxymethyloxetane | 75 g | C(C)C1(COC1)COCCCCO | C10H20O3
